US05075299
6-Methyl-5-hydroxy-2-hydroxymethyl-4-pyrone
2,6-Dihydroxymethyl-5-hydroxy-4-pyrone, 10 g, was added to 50 ml of water to dissolve at 70° C. To the solution was added 8 g of zinc powders and, 28 ml of conc. hydrochloric acid (12 N) was dropwise added to the mixture over an hour. The mixture was stirred at the same temperature for 30 minutes. Insoluble matters (zinc powders) were removed and the reaction solution was cooled to 5° C. After adjusting its pH to 2 with 50% aqueous sodium hydroxide solution, the mixture was stirred at the same temperature for an hour and the resulting crystals were taken out by filtration, washed with a small quantity of chilled water and dried to give 5.15 g of the title compound.

reactant | 2,6-Dihydroxymethyl-5-hydroxy-4-pyrone | OCC=1OC(=C(C(C1)=O)O)CO | C7H8O5
reactant | hydrochloric acid | 12 N, 28 ml | Cl | ClH
catalyst | zinc | 8 g | [Zn] | Zn
solvent | water | 50 ml | O | H2O
product | 6-Methyl-5-hydroxy-2-hydroxymethyl-4-pyrone | 5.15 g | CC1=C(C(C=C(O1)CO)=O)O | C7H8O4
